US05604229
2-Acetamido-1,3-diacetoxy-2-tetradecylpropane (1.25 g) was dissolved in 100 ml of methanol and 19.4 ml of a 1N aqueous sodium hydroxide solution was added thereto. The mixture was refluxed under heating for 6 hours. The mixture was neutralized with a 1N aqueous hydrochloric acid solution and concentrated under reduced pressure. The concentrate was washed with water and ethyl acetate:hexane =1:1 in order to give 791 mg of 2-amino-2-tetradecyl-l,3-propanediol hydrochloride.

reactant | 2-Acetamido-1,3-diacetoxy-2-tetradecylpropane | 1.25 g | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CCCCCCCCCCCCCC | C23H43NO5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 2-amino-2-tetradecyl-l,3-propanediol hydrochloride | 791 mg | Cl.NC(CO)(CO)CCCCCCCCCCCCCC | InChI=1S/C17H37NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-17(18,15-19)16-20;/h19-20H,2-16,18H2,1H3;1H
